US07915261B2
The resulting tert-butyl 4-{[4-(cyclohexylmethoxy)phenyl]sulfonyl}piperidine-1-carboxylate (635 mg) was dissolved in EtOAc (7 ml), and a 4 M hydrogen chloride/EtOAc solution (3.6 ml) was added thereto, followed by stirring at room temperature for 6 hours. The solid was collected by filtration and washed with EtOAc to obtain 4-{[4-(cyclohexylmethoxy)phenyl]sulfonyl}piperidine hydrochloride (485 mg) as colorless powder.

reactant | tert-butyl 4-{[4-(cyclohexylmethoxy)phenyl]sulfonyl}piperidine-1-carboxylate | 635 mg | C1(CCCCC1)COC1=CC=C(C=C1)S(=O)(=O)C1CCN(CC1)C(=O)OC(C)(C)C | C23H35NO5S
reactant | hydrogen chloride EtOAc | 4 M, 3.6 ml | Cl.CCOC(=O)C
solvent | EtOAc | 7 ml | CCOC(=O)C | C4H8O2
product | 4-{[4-(cyclohexylmethoxy)phenyl]sulfonyl}piperidine hydrochloride | 485 mg | Cl.C1(CCCCC1)COC1=CC=C(C=C1)S(=O)(=O)C1CCNCC1 | InChI=1S/C18H27NO3S.ClH/c20-23(21,18-10-12-19-13-11-18)17-8-6-16(7-9-17)22-14-15-4-2-1-3-5-15;/h6-9,15,18-19H,1-5,10-14H2;1H
